* source PLAT_BANDPASS
V_V3         N25953 0  AC 1
+SIN 0 1 2 0 0 0
X_U1A         N27011 HPOUT +5 0 HPOUT LM324
C_C1         N25953 N27011 C_C1 0.001  TC=0,0 
.model        C_C1 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R1         0 N27011 R_R1 510 TC=0,0 
.model        R_R1 RES R=1 DEV=5% TC1=0 TC2=0
R_R4         N28269 N28319 R_R4 910 TC=0,0 
.model        R_R4 RES R=1 DEV=5% TC1=0 TC2=0
V_V4         N27788 0  AC 1
+SIN 0 1 100 0 0 0
R_R3         N30842 N32220 R_R3 6.37k TC=0,0 
.model        R_R3 RES R=1 DEV=5% TC1=0 TC2=0
C_C4         N28319 N28269 C_C4 50u  TC=0,0 
.model        C_C4 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
X_U1B         N32725 N28269 V+ 0 N28319 LM324
R_R5         N30842 N28269 R_R5 800 TC=0,0 
.model        R_R5 RES R=1 DEV=5% TC1=0 TC2=0
C_C5         0 N30842 C_C5 50n  TC=0,0 
.model        C_C5 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R8         N31746 N31672 R_R8 800 TC=0,0 
.model        R_R8 RES R=1 DEV=5% TC1=0 TC2=0
X_U2B         N32795 N31672 V+ V- N31676 LM324
R_R6         N31746 N28319 R_R6 6.37k TC=0,0 
.model        R_R6 RES R=1 DEV=5% TC1=0 TC2=0
C_C7         0 N31746 C_C7 50n  TC=0,0 
.model        C_C7 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R7         N31672 N31676 R_R7 910 TC=0,0 
.model        R_R7 RES R=1 DEV=5% TC1=0 TC2=0
C_C6         N31676 N31672 C_C6 50u  TC=0,0 
.model        C_C6 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
C_C8         N27788 N32230 C_C8 0.001  TC=0,0 
.model        C_C8 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
X_U2C         N32230 N32220 V+ 0 N32220 LM324
R_R9         0 N32230 R_R9 330 TC=0,0 
.model        R_R9 RES R=1 DEV=5% TC1=0 TC2=0
R_R10         N32725 +5 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=5% TC1=0 TC2=0
R_R11         N32795 +5 R_R11 1k TC=0,0 
.model        R_R11 RES R=1 DEV=5% TC1=0 TC2=0
V_V7         V- 0 -9
V_V8         +5 0 5
V_V6         V+ 0 9
X_U4C         N37353 N37289 +5 0 N37289 LM324
C_C12         N37289 N37331 C_C12 10u  TC=0,0 
.model        C_C12 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
C_C13         0 N37353 C_C13 10u  TC=0,0 
.model        C_C13 CAP C=1 DEV=5% TC1=0 TC2=0 VC1=0 VC2=0
R_R17         N37331 N37353 R_R17 6k TC=0,0 
.model        R_R17 RES R=1 DEV=5% TC1=0 TC2=0
R_R18         HPOUT N37331 R_R18 6k TC=0,0 
.model        R_R18 RES R=1 DEV=5% TC1=0 TC2=0
